Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
 "I was stressed out about a lot of things, and just wanted to 
feel calm for a long time." 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Initial Consult HPI:
___ y/o woman with extensive past hx of distant substance abuse,
self injurious behavior, chronic passive suicidality presented 
to
___ night of ___ after taking a ___ klonopin 0.5mg tabs.
Hosp course includes being given activated charcoal and
monitoring in ICU for possibility of acute CNS depression.  Pt
was seen by toxicology, and recommended to remain in ICU given
Clonazepam's long half life.  Her course has been uncomplicated
thus far. Today, the patient reports that on the night of the
ingestion she came home from work that evening and was feeling
depressed about many things in her life, including having no
friends she feels close to in ___, problems with her 
roommate,
problems with her boyfriend (as she was unfaithful to him
recently), stress ___ a project due for her summer internship,
and working a part-time job. She came home feeling anxious and
took her normal dose of 0.5mg Clonazepam as needed for anxiety. 
She started to feel better, but wanted to feel better for a
longer period of time, and thus steadily took more pills one by
one.  She began to feel more hopeless and depressed about the
many stressors in her life and just wanted to sleep, it was then
that she took "the whole bottle."  She states she did not want 
to
actually die as result of the ingestion, rather she just wanted
"to make things better by sleeping."   She states she has been
depressed recently, but that she has been depressed and suicidal
her whole life.  She denies  any plans to commit suicide prior 
to
the ingestion.  
.
She has a history of cutting and burning, but has not cut in 
over
a year. She has not any urges to cut or burn recently.  She
denies any sleeping problems, denies changes in concentration,
and her energy varies (sometimes she feels like she can
accomplish a lot, some says she is tired).  She denies any
decreased need for sleep, increased spending, or grandiosity.
Denies any AH/VH/IOR/IOP.  She is not concerned for her safety
right now, and does not feel suicidal.  
.
She states she does not want to commit suicide now because it 
has
caused her a lot of stress, as she has project to complete, and
is supposed to attend a meeting tomorrow morning for her
internship.  In addition, her boyfriend is now angry with her,
although he does not yet know about her recent infidelity.  She
feels very guilty about this, and furthermore has been
emotionally rejected by the man with whom she cheated.   She
feels alone and abandoned by him, which further upsets her.  She
has felt very lonely in ___, as she is barely on speaking
terms with her roommates.   She states the friends she has made
here are were very mean, and talked behind her back.  "I've
always had trouble making friends," she states.  
Of notes she states her depression has been getting worse for 
the
past year given her social problems, and  states that
occasionally she feels calm, but equates this more as "a calm
before a storm."  She is not hopeful that things will improve 
for
her. 
.
.
Initial Inpatient Floor HPI:
Pt is a ___ yo woman with h/o social anxiety disorder and likely 
borderline personality disorder who presented to ___ on 
___ s/p OD on Klonopin.  She was admitted to the medical 
floor initially to monitor respiratory status and then 
subsequently transferred to Deac 4 for safety, stablilization, 
and psychopharm evaluation.  
The patient reports that she came home from her internship on 
___ and felt "out of it and anxious" and therefore decided 
to take 1 Klonopin pill.  A ___ hour later, she did not feel 
much better so she took another pill.  After about an hour, she 
did not feel better and then decided impulsively to take the 
whole pill bottle.  She is not able to recall whether she wanted 
to die at that time but rather is able to recall that she wanted 
to be able to sleep.  She reports many social stressors that 
were causing her to feel anxious including her relationship with 
her boyfriend on whom she recently cheated, her overbearing boss 
at work, having to move soon, no close friends, and having a 
paper due for her summer internship.  She reports that these 
have been stressors for her for a while and that sometimes she 
feels a "calm, but not a good calm.  It is as iff I don't feel 
anything; that I am not aware of things/people around me."  
She reports that she has had no times for things recently due to 
her 2 jobs.  She reports that, for this reason, she has been 
unable to do things that she enjoys, which include exploring 
___ and going out to lunch.  She reports that her energy is 
on/off and that her concentration is okay at work but not 
otherwise.  Sleep has been good due to her always being tired 
and her appetite has been good.  She denies manic symptoms 
currently or in the past, believing that her diagnosis of 
bipolar disorder given to her by a psychiatrist at ___ has no 
merit.  
When asked about her anxiety symptoms, the patient reports that 
she is anxious mostly in social situations.  She hates parties 
she reports.  She reports that she often feels anxious when she 
is alone but not in the same way--she describes it as a 
depression.  She has had 1 panic attack in the past (last 
summer) when she couldn't breathe and she lost feeling in her 
arm.  She reports that she "invests a lot in people" and has 
poor relationships with others.  She gets irritated quickly and 
spends time crying and yelling when that happens.  She reports 
that she often feels abandoned by people.
When asked to describe herself, she states, "I'm always trying 
to figure out who I am.  I always want to be someone in 
particular but I'm always trying to be someone else."  
 
Past Medical History:
Past Psychiatric History:
-outpatient psychiatrist ___ ___ has 
seen 3 times
-SIB since middle school by cutting/burning; has not had any SIB 
for over ___ year
-no prior SA
-no past psych hospitalizations
-given a diagnosis of bipolar d/o last Fall by psychiatrist at 
___, but pt denies any prior manic symptoms
-prior medication trials: Prozac, Lamictal
-given diagnosis of social anxiety by Dr. ___ 
Klonopin for this
.
Past Medical History: denies
 
Social History:
___
Family History:
Father: ?anxiety
___ family substance abuse history
Denies family SA/completed suicides
 
Physical Exam:
Completed on admission by ___, MD on ___
.
Vital signs: T: 97.3  P: 84  BP: 111/70   99% O2 RA
.
ROS: +circulatory difficulties--hands/feet ocasionally blue
.
Head: NC/AT
Skin: no rashes
Eyes: no injection, anicteric
Ears: no lesions
Nose: nares patent
Mouth: normal dentition, OP clear, MMM
Neck: no LAD, no thyroid enlargement or nodules, no carotid 
bruits
Heart: RRR, no m/r/g
Lungs: CTAB
Abd: soft, NT/ND, +BS
Back: no CVA tenderness
Ext: no c/c/e
.
Neurologic:
CN II-XII grossly intact
Motor: ___ strength throughout
Sensory: intact to light touch throughout
Reflexes: 2+
Coordination: intact with finger-to-nose
Gait: normal
 
Pertinent Results:
___ 09:21PM   GLUCOSE-105 UREA N-11 CREAT-0.8 SODIUM-142 
POTASSIUM-4.4 CHLORIDE-106 TOTAL CO2-30 ANION GAP-10
___ 09:21PM   ALT(SGPT)-15 AST(SGOT)-19 ALK PHOS-56 TOT 
BILI-0.3
___ 09:21PM   CALCIUM-9.4 PHOSPHATE-4.0 MAGNESIUM-2.1
___ 09:21PM   TSH-1.3
___ 09:21PM   HCG-<5
___ 09:21PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:21PM   WBC-5.5 RBC-4.80 HGB-13.6 HCT-41.2 MCV-86 
MCH-28.4 MCHC-33.1 RDW-12.8
___ 09:21PM   PLT COUNT-206
___ 04:57AM   GLUCOSE-95 UREA N-7 CREAT-0.7 SODIUM-143 
POTASSIUM-3.7 CHLORIDE-111* TOTAL CO2-24 ANION GAP-12
___ 04:57AM   ALT(SGPT)-15 AST(SGOT)-17 LD(LDH)-116 
CK(CPK)-40 ALK PHOS-41 AMYLASE-44 TOT BILI-0.3
___ 04:57AM   LIPASE-17
___ 04:57AM   ALBUMIN-3.5 CALCIUM-8.5 PHOSPHATE-3.7 
MAGNESIUM-1.9
___ 04:57AM   TSH-1.7
___ 04:57AM   WBC-5.4 RBC-4.34 HGB-12.1 HCT-37.0 MCV-85 
MCH-27.9 MCHC-32.8 RDW-12.8
___ 04:57AM   NEUTS-44.7* LYMPHS-46.6* MONOS-4.7 EOS-3.7 
BASOS-0.3
___ 04:57AM   PLT COUNT-200
___ 04:57AM   ___ PTT-34.6 ___
 
Brief Hospital Course:
Legal: ___
Psychiatric: 
The patient was transferred from the medical floor following 
admission for overdose on Klonopin.  Upon arrival to the 
psychiatric floor, the patient signed a CV for voluntary 
admission.  She was interviewed by the treatment team on the 
first hospital day and it was decided to start an antidepressant 
for its anxiolytic properties, to treat anxiety and social 
phobia.  Given that the patient had an unsuccessful trial on 
Prozac, Celexa was chosen.  Celexa 20 mg daily was started on 
___. In addition to the Celexa, the patient was started on 
Propranolol 10mg PO BID to assist further with anxiety symptoms 
resulting from an activated sympathetic nervous system. The 
patient tolerated the medications well and had significant 
improvement of her symptoms over her stay. Further she was 
prescribed Seroquel 25mg PO q4h PRN for breakthrough anxiety. 
The patient was provided with prescriptions for the above 
medications after discharge. 
A family meeting was held on ___ in conjunction with social 
work. The patient's parents came to visit their daughter from 
___ and planned to stay in town until the patient's 
discharge from Deac 4.  The patient's social stressors were 
discussed, including financial issues, school work, and the 
patient's image of herself.  The patient's parents agreed to 
consider new insurance options for the patient, such as 
obtaining ___ school insurance in order to have access to more 
outpatient services in the ___ area.  The patient agreed to 
consider weekly therapy. On days 4 and 5 of hospitalization the 
patient continued to improve in terms of her mood and anxiety 
symptoms. She reported not having had any negative thoughts 
about self harming behavior or suicide during her stay here. The 
patient was future oriented and had plans to finish up her 
internship and return to her college classes by ___. 
By day 5 of hospitalization, it was felt that the patient was 
ready for discharge to outpatient providers. A partial 
hospitalization was offered to her at that time but she 
declined, as she has school.

Medical: The patient was medically cleared while she was 
admitted to medicine and had no further medical issues after her 
transfer to the psychiatric unit. The patient continued her OCP 
(Kariva) while on the unit. On day three of hospitalization she 
complained of problems with constipation and was started on 
Lactulose 30ml PO q4h PRN which she tolerated well. Otherwise 
her vitals were monitored daily and remained stable through out 
her hospitalization. 

Dispo: The patient was discharged on her ___ day of 
hospitalization to her parents. Letters were provided for her 
internship as evidence of her hospitalization. She was 
discharged to an outpatient psychiatrist and with a phone intake 
to the ___. The patient continued to refuse to set 
up follow up with ___ mental health services, although recognizes 
that she can use them on an emergency basis. The patient also 
refused partial program. Upon discharge she was also provided 
with prescriptions for 20 days worth until her psychiatrist's 
appointment. 
 
Medications on Admission:
Klonopin 0.5 mg PRN
OCP (Kariva) PO daily
 
Discharge Medications:
1. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for anxiety.
Disp:*120 Tablet(s)* Refills:*0*
2. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*20 Tablet(s)* Refills:*0*
3. Kariva 0.15-0.02mg x21 /0.01 mg x 5 Tablet Sig: One (1) 
Tablet PO Q10PM ().  
4. Propranolol 10 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for aka___.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Social Anxiety Disorder
Axis II: Borderline personality traits
Axis III: none
Axis IV: social relationship issues, romantic relationship 
issues, job stress
Axis V:65
 
Discharge Condition:
stable; markedly improved from admission, ready for discharge
Discharge Mental Status Exam: ___ yo female, well groomed with 
good hygiene. Calm and cooperative with good eye contact. Speech 
is normal rate and rhythm. Mood is "good" Affect is euthymic, 
mood congruent and appropriate during the interview. TP: linear 
and goal directed. TC: no evidence of paranoia, delusions, 
preoccupations. AH/VH: denied SI/HI: The patient denied any 
suicidal or homicidal ideation and denied any thoughts of self 
harming behaviors. 
I/J: fair, the patient understands need for treatment and follow 
up with her discharge plan
 
Discharge Instructions:
**Please go to the nearest Emergency Room if you are feeling 
unsafe (wanting to harm yourself or others)
**Please followup with programs/appointments as listed below
 
Followup Instructions:
___